US07902252B2
4.34. Synthesis of 6-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (115)
The title compound was synthesized from methyl 6-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.213 g, 0.67 mmol) and lithium hydroxide (0.281 g, 6.70 mmol in 4 mL water), according to General Procedure 7. A 1:2 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford a light pink solid: 0.098 g (48% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.23 (ddt, J=13.14, 8.21, 5.27, 5.27 Hz, 1H), 2.62 (ddd, J=14.31, 8.65, 5.34 Hz, 1H), 2.69-2.78 (m, 1H), 2.87-2.98 (m, 1H), 4.24 (dd, J=8.40, 5.17 Hz, 1H), 6.67 (s, 1H), 7.07 (d, J=7.61 Hz, 1H), 7.18 (t, J=7.81 Hz, 1H), 7.25 (s, 1H), 7.33 (d, J=7.86 Hz, 1H); LCMS (ESI+) 306.0 (M+H); HPLC (UV=96.1%), (ELSD=99.3%).

reactant | methyl 6-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.67 mmol, 0.213 g | BrC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)OC | C15H14BrNO2
reactant | lithium hydroxide | 6.70 mmol, 4 mL, 0.281 g | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 6-(3-bromophenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 48% yield | BrC=1C=C(C=CC1)C1CCC2=C1NC(=C2)C(=O)O | C14H12BrNO2
